US07601844B2
Step 1: 3-(Methoxycarbonyl)-5-methylbenzoic acid
5-Methylisophthalic acid (1.21 g, 6.5 mmol), dichloroethane (20 mL), DMF (3 drops), and thionyl chloride (2.42 g, 20 mmol) was heated to 80° C. for 4 hrs. The reaction was concentrated to dryness and a solution of MeOH (208 mg, 6.5 mmol) was added slowly and the reaction was stirred overnight at rt. 1 N Hydrochloric acid (10 mL) was added and reaction stirred for 1 hr. The pH was adjusted with sat'd sodium bicarbonate (50 mL) and the aqueous solution was extracted with methylene chloride to remove the diester. The aqueous portion was then acidified with 1 N HCl and extracted with methylene chloride/MeOH 95:5. The organic extracts were dried over sodium sulfate, filtered, concentrated, and the product was isolated via preparative reverse-phase HPLC.

reactant | 5-Methylisophthalic acid | 6.5 mmol, 1.21 g | CC=1C=C(C=C(C(=O)O)C1)C(=O)O | C9H8O4
reactant | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
reactant | thionyl chloride | 20 mmol, 2.42 g | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 6.5 mmol, 208 mg | CO | CH4O
reactant | Hydrochloric acid | 1 N, 10 mL | Cl | ClH
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
product | 3-(Methoxycarbonyl)-5-methylbenzoic acid | COC(=O)C=1C=C(C(=O)O)C=C(C1)C | C10H10O4
